US07598418B2
Preparation of 5-amino-N-benzylnaphthalene-2-sulfonamide (Compound No. 6-1)
5-Acetylamino-N-benzylnaphthalene-2-sulfonamide (compound No. 5-1; 175 mg, 0.494 mmol) was suspended to a mixed solvent of 1-propanol (3.0 ml) and water (1.5 ml). Concentrated hydrochloric acid (1.5 ml) was added to the suspension and the mixture was refluxed for 1 hour. After cooling to room temperature, the separated crystal was collected and washed with 1-propanol and isopropyl ether to give the title compound as a light yellow crystal (128 mg, 74.4%).

reactant | 5-Acetylamino-N-benzylnaphthalene-2-sulfonamide | C(C)(=O)NC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)NCC1=CC=CC=C1 | C19H18N2O3S
reactant | 1-propanol | 3.0 ml | C(CC)O | C3H8O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | water | 1.5 ml | O | H2O
product | 5-amino-N-benzylnaphthalene-2-sulfonamide | 128 mg, 74.4% | NC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)NCC1=CC=CC=C1 | C17H16N2O2S
